US04921852
To a solution of (2S,4R)-4-t-butyldimethylsilyloxy-2-(2-imidazolin-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (930 mg) in tetrahydrofuran (20 ml) was added sodium hydride (62.8% suspension in oil, 103 mg), and to this mixture was dropwise added a solution of 4-nitrobenzyloxycarbonyl chloride (531 mg) in dichloromethane (15 ml) at 0° C. After stirring at 0° C. for 1.5 hours, acetic acid (0.18 ml) was added thereto. The mixture was evaporated, extracted with ethyl acetate, and washed with saturated sodium bicarbonate and brine successively. The dried organic layer was evaporated, the obtained oil was subjected to a column chromatography on silica gel and eluted with a mixture of dichloromethane and acetone (9:1, V/V) to give (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine (1.4 g).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-2-(2-imidazolin-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 930 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1NCCN1 | C21H32N4O5Si
reactant | sodium hydride | 103 mg | [H-].[Na+]
reactant | 4-nitrobenzyloxycarbonyl chloride | 531 mg | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | acetic acid | 0.18 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine | 1.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(CCN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H37N5O9Si
